US06156772
3-{2-[Bis-(4-pyridin-3-yl-benzyl)amino]ethyl}-2-(3,5-dimethylphenyl)-1H-indole-5-carboxylic acid diisopropylamide
To a solution of 2.5 equivalents 4-pyridin-3-yl-benzaldehyde in a mixture of methanol and glacial acetic acid is added 3-(2-aminoethyl)-2-(3,5-dimethylphenyl)-1H-indole-5-carboxylic acid diisopropylamide followed by 3 Å powdered molecular seives. To this mixture, an excess of sodium cyanoborohydride is added and the pH adjusted to 5.5 by the addition of 10% methanolic acetic acid. After completion, the reaction is quenched by the addition of saturated sodium bicarbonate and the mixture extracted with ethyl acetate. The organic portion is washed successively with saturated ammonium chloride, sodium bicarbonate and brine, then dried over sodium sulfate. Purification of the concentrate by flash chromatography on silica gel gives the title compound.

reactant | 4-pyridin-3-yl-benzaldehyde | 2.5 equivalents | N1=CC(=CC=C1)C1=CC=C(C=O)C=C1 | C12H9NO
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | 3-(2-aminoethyl)-2-(3,5-dimethylphenyl)-1H-indole-5-carboxylic acid diisopropylamide | C(C)(C)N(C(=O)C=1C=C2C(=C(NC2=CC1)C1=CC(=CC(=C1)C)C)CCN)C(C)C | C25H33N3O
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
solvent | methanol | CO | CH4O
product | 3-{2-[Bis-(4-pyridin-3-yl-benzyl)amino]ethyl}-2-(3,5-dimethylphenyl)-1H-indole-5-carboxylic acid diisopropylamide | C(C)(C)N(C(=O)C=1C=C2C(=C(NC2=CC1)C1=CC(=CC(=C1)C)C)CCN(CC1=CC=C(C=C1)C=1C=NC=CC1)CC1=CC=C(C=C1)C=1C=NC=CC1)C(C)C | C49H51N5O
